US06642267B2
An excess of diazomethane in ether is added to a suspension of 0.46 g (2 mmol) benzylidene-4-hydroxy-3-nitro-3-pyrrolin-2-one (prepared by the method of H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, vol. 331, pp. 389-394) and Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199 and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in 20 ml methanol. When the evolution of nitrogen has subsided, the solvent is stripped off, the residue is dissolved in methanol and the solution is heated under reflux with an excess of ammonia solution for five minutes, whereupon yellow crystals precipitate out, which are filtered off with suction and washed with methanol. 4-Amino-5-benzylidene-3-nitro-1,5-dihydropyrrol-2-one obtained with a melting point of >260° C. in a yield of 75%.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | benzylidene-4-hydroxy-3-nitro-3-pyrrolin-2-one | 2 mmol, 0.46 g | C(C1=CC=CC=C1)=C1C(=C(C(N1)=O)[N+](=O)[O-])O | C11H8N2O4
reactant | ammonia | N | H3N
solvent | ether | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | 4-Amino-5-benzylidene-3-nitro-1,5-dihydropyrrol-2-one | yield of 75% | NC1=C(C(NC1=CC1=CC=CC=C1)=O)[N+](=O)[O-] | C11H9N3O3
